US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-hydroxypropan-2-yl)oxazole-4-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 2-(2-hydroxypropan-2-yl)oxazole-4-carboxylic acid (197 mg, 1.151 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (250 mg, 0.959 mmol). The product was purified by flash chromatography. Yield 57.7%. 1H-NMR (400 MHz; DMSO-d6): δ 1.12 (d, 3H), 1.53 (s, 6H), 4.31 (dd, 1H), 4.40 (dd, 1H), 4.43-4.52 (m, 1H), 5.66 (s, 1H), 6.97 (d, 1H), 7.84 (d, 1H), 7.94-8.00 (m, 2H), 8.08-8.10 (m, 1H), 8.17 (d, 1H), 8.48 (s, 1H).

reactant | 2-(2-hydroxypropan-2-yl)oxazole-4-carboxylic acid | 1.151 mmol, 197 mg | OC(C)(C)C=1OC=C(N1)C(=O)O | C7H9NO4
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.959 mmol, 250 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-hydroxypropan-2-yl)oxazole-4-carboxamide | Yield 57.7% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)C(C)(C)O | C20H20ClN5O3
